US06180622B2
Thionyl chloride (12.7 ml) is added to 6.67 g of 3-hydroxymethylimidazo[5,1-b]thiazole hydrochloride, and the mixture is stirred at 60° C. for 30 min. The temperature is returned to room temperature, isopropyl ether is added thereto, the supernatant is decanted, and the residue is dried under reduced pressure to give 3-chloromethylimidazo[5,1-b]thiazole hydrochloride. This compound is dissolved in 35 ml of DMF, 10.11 g of triphenylphosphine is added thereto, and the mixture is stirred at 100° C. for 12 hr. The resultant precipitate is collected by filtration to give 8.86 g of (imidazo[5,1-b]thiazol-3-yl)methyltriphenylphosphonium chloride hydrochloride.

reactant | Thionyl chloride | 12.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxymethylimidazo[5,1-b]thiazole hydrochloride | 6.67 g | Cl.OCC=1N2C(SC1)=CN=C2
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 3-chloromethylimidazo[5,1-b]thiazole hydrochloride | Cl.ClCC=1N2C(SC1)=CN=C2 | InChI=1S/C6H5ClN2S.ClH/c7-1-5-3-10-6-2-8-4-9(5)6;/h2-4H,1H2;1H
